US05935979
At -20° C., 0.5 g (0.005 mol) of N-methylpiperidine and then, dropwise with stirring at -20° C., 0.7 g (0.005 mol) of isobutyl chloroformate are added to 1.0 g (0.005 mol) of 2-(i-propoxycarbonylamino)-but-2-enoic acid in 10 ml of dichloromethane. After the addition is complete, stirring is continued at -20° C. for a further 10 minutes, and 0.75 g (0.005 mol) of 1-(4-methoxyphenyl)-ethylamine are added, the temperature being kept below -15° C. Stirring is then continued for a further 2 hours at -15° C. and for 15 hours at room temperature, the precipitated solid is filtered off and washed with dichloromethane, the filtrate is concentrated under reduced pressure, the residue is taken up in water and extracted repeatedly with ethyl acetate, the combined organic phases are washed with aqueous sodium bicarbonate solution and water and dried over sodium sulphate, and the solvent is removed under reduced pressure. 0.8 g (47% of theory) of N-[1-(4-methoxyphenyl)-ethyl]-2-(i-propoxycarbonylamino)-but-2-enoic acid amide are obtained as a colourless oil. 1H-NMR (CDCl3, TMS), δ (ppm): 1.25 (m, 6H), 1.50 (d, 3H); 1.74 (d, 3H); 3.79 (s, 3H).

reactant | N-methylpiperidine | 0.005 mol, 0.5 g | CN1CCCCC1 | C6H13N
reactant | isobutyl chloroformate | 0.005 mol, 0.7 g | ClC(=O)OCC(C)C | C5H9ClO2
reactant | 2-(i-propoxycarbonylamino)-but-2-enoic acid | 0.005 mol, 1.0 g | C(C)(C)OC(=O)NC(C(=O)O)=CC | C8H13NO4
reactant | 1-(4-methoxyphenyl)-ethylamine | 0.005 mol, 0.75 g | COC1=CC=C(C=C1)C(C)N | C9H13NO
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | N-[1-(4-methoxyphenyl)-ethyl]-2-(i-propoxycarbonylamino)-but-2-enoic acid amide | 0.8 g, 47% | COC1=CC=C(C=C1)C(C)NC(C(=CC)NC(=O)OC(C)C)=O | C17H24N2O4
